US06638929B2
8-(4-Chloro-5-methoxy-2-methylanilino)-3-[2-(4-morpholinyl)ethyl]-3H-imidazo[4,5]quinoline-7-carbonitrile
A mixture of 86.5 mg (0.25 mmol) of 8-chloro-3-[2-(4-morpholinyl)ethyl]-3H-imidazo[4,5-g]quinoline-7-carbonitrile, 67.2 mg (0.39 mmol) of 4-chloro-5-methoxy-2-methyl aniline and 28.9 mg (0.25 mmol) of pyridine hydrochloride in 3 mL of 2-ethoxyethanol is heated at 130-135° C. for 11 hours. After cooling, the mixture is diluted with water and neutralized with 2 equivalents of sodium carbonate, and then extracted with ethyl acetate. The separated organic layer is washed with brine and dried over sodium sulfate. Removal of the solvent yields a residue which is purified on preparative TLC (developing solvent: 1:9 methanol/methylene chloride), giving 83.3 mg (69.9%) of the product as a beige solid, mp 246-248° C.

reactant | 8-chloro-3-[2-(4-morpholinyl)ethyl]-3H-imidazo[4,5-g]quinoline-7-carbonitrile | 0.25 mmol, 86.5 mg | ClC1=C(C=NC=2C=C3C(=CC12)N=CN3CCN3CCOCC3)C#N | C17H16ClN5O
reactant | 4-chloro-5-methoxy-2-methyl aniline | 0.39 mmol, 67.2 mg | ClC1=CC(=C(N)C=C1OC)C | C8H10ClNO
reactant | pyridine hydrochloride | 0.25 mmol, 28.9 mg | Cl.N1=CC=CC=C1
reactant | sodium carbonate | 2 equivalents | C([O-])([O-])=O.[Na+].[Na+]
solvent | 2-ethoxyethanol | 3 mL | C(C)OCCO | C4H10O2
solvent | water | O | H2O
product | 8-(4-Chloro-5-methoxy-2-methylanilino)-3-[2-(4-morpholinyl)ethyl]-3H-imidazo[4,5]quinoline-7-carbonitrile | 83.3 mg, 69.9% | ClC1=CC(=C(NC2=NC=3C4=C(C=CC3C=C2C#N)N(C=N4)CCN4CCOCC4)C=C1OC)C | C25H25ClN6O2
